US08957069B2
7-hydroxy-2,2,4,6-tetramethyl-1-benzofuran-3(2H)-one
A mixture of 7-methoxy-2,2,4,6-tetramethyl-1-benzofuran-3(2H)-one (1.10 g, 4.99 mmol) synthesized in Reference Example 68, 48% hydrobromic acid (20 mL) and acetic acid (4 mL) was stirred at 100° C. for 15 hours. The reaction solution was poured into cold saturated sodium bicarbonate water in ice bath and extracted using ethyl acetate. The extract was washed with saturated saline, and dried using anhydrous magnesium sulfate, followed by concentration under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane-ethyl acetate 95:5 to 80/20) to give 980 mg of the title compound (yield: 95%).

reactant | 7-methoxy-2,2,4,6-tetramethyl-1-benzofuran-3(2H)-one | 4.99 mmol, 1.10 g | COC1=C(C=C(C=2C(C(OC21)(C)C)=O)C)C | C13H16O3
reactant | hydrobromic acid | 20 mL | Br | BrH
reactant | sodium bicarbonate water | O.C([O-])(O)=O.[Na+]
solvent | acetic acid | 4 mL | C(C)(=O)O | C2H4O2
product | 7-hydroxy-2,2,4,6-tetramethyl-1-benzofuran-3(2H)-one | 980 mg, yield: 95% | OC1=C(C=C(C=2C(C(OC21)(C)C)=O)C)C | C12H14O3
